US07262185B2
2-(4-fluoro-2-trifluoromethylbenzoyl)-4-methylpyridine (4.5 g) and sodium azide (1.3 g) were suspended in dimethylsulfoxide (30 ml), and the mixture was heated with stirring overnight under nitrogen atmosphere at 90° C. The mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and then, the solvent was evaporated. The residue was dissolved in tetrahydrofuran (30 ml), and to the solution was added aluminum lithium hydride (1.2 g) under ice-cooling, and the mixture was stirred for 1 hour under nitrogen atmosphere under ice-cooling. Water (1.2 ml), 15% aqueous solution of sodium hydroxide (1.2 ml) and water (3.6 ml) were added to the mixture, and the mixture was stirred, dried over anhydrous magnesium sulfate, and filtrated. The solvent of the filtrate was distilled off, to give (4-amino-2-trifluoromethylphenyl)(4-methylpyridin-2-yl)methanol (3.6 g) as colorless crystals.

reactant | 2-(4-fluoro-2-trifluoromethylbenzoyl)-4-methylpyridine | 4.5 g | FC1=CC(=C(C(=O)C2=NC=CC(=C2)C)C=C1)C(F)(F)F | C14H9F4NO
reactant | sodium azide | 1.3 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | (4-amino-2-trifluoromethylphenyl)(4-methylpyridin-2-yl)methanol | 3.6 g | NC1=CC(=C(C=C1)C(O)C1=NC=CC(=C1)C)C(F)(F)F | C14H13F3N2O
